US05382679
Using in the procedure of Example 1 benzoyl chloride in place of pivaloyl chloride, L-glutathione reduced (15.4 g) affords a crude white solid which is suspended in boiling acetone/water (3/1; 400 ml) for thirty minutes. After cooling at room temperature the white precipitate is collected by filtration and washed with acetone (20 ml). Under vacuum drying yields γ-L-glutamyl-S-benzoyl-L-cysteinyl-glycine (16 g yield=78%).

reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | L-glutathione reduced | 15.4 g | C(CC(=O)N[C@@H](CS)C(=O)NCC(=O)O)[C@@H](C(=O)O)N | C10H17N3O6S
solvent | acetone water | 400 ml | CC(=O)C.O
product | γ-L-glutamyl-S-benzoyl-L-cysteinyl-glycine | 16 g, yield=78% | N[C@@H](CCC(=O)N[C@@H](CSC(C1=CC=CC=C1)=O)C(=O)NCC(=O)O)C(=O)O | C17H21N3O7S
